US05807859
1.3 g of 10-acetamido-10-butyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are dissolved in 25 ml of boiling 2N hydrochloric acid and the solution is stirred for 1 hours 30 minutes at boiling, cooled and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 60° C. The product obtained is dissolved in 30 ml of methanol and, after addition of decolorizing charcoal, the solution is filtered. The filter is washed with 10 ml of methanol, and the filtrate and washing are combined, 400 ml of acetone are added and the solution is stored for 1 hour at a temperature in the region of 20° C. The insoluble product formed is isolated by filtration, washed twice with 100 ml in total of acetone and dried under reduced pressure (1 mmHg; 0.13 kPa) at 20° C. 0.83 g of 10-amino-10-butyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one hydrochloride (1.8 mol of acid per mole of base) is thus obtained, decomposing without melting above 250° C. (Analysis, % calculated C: 57.01, H: 5.56, Cl: 17.32, N: 15.64, O: 4.47, % found C: 56.9, H: 5.4, Cl: 17.5, N: 15.7).

reactant | 10-acetamido-10-butyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.3 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC | C19H20N4O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | charcoal | C | CH4
solvent | methanol | 30 ml | CO | CH4O
product | 10-amino-10-butyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one hydrochloride | 1.8 mol, 0.83 g | Cl.NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC | InChI=1S/C17H18N4O.ClH/c1-2-3-8-17(18)12-7-5-4-6-11(12)13-14(17)21-10-9-19-15(21)16(22)20-13;/h4-7,9-10H,2-3,8,18H2,1H3,(H,20,22);1H
